US04612322
To a solution of 500 mg of 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)-1,2-propanediol in a mixture of 20 ml of acetone and 1 ml of dimethylformamide are added 2 ml of 2,2-dimethoxypropane, 100 mg of p-toluenesulfonic acid and about 50 mg of zinc chloride, and the resultant mixture is refluxed for 68 hours. The reaction mixture is poured into cold aqueous sodium hydrogencarbonate solution, and the mixture is shaken with methylene chloride. The organic layer is washed with water, dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, which is eluted with benzene and ethyl acetate (1:1 v/v). The eluate is concentrated and the residue is washed with isopropyl ether to give 110 mg of 4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)-2,2-dimethyl-4-(1H-1,2,4-triazol-1-yl)methyl-1,3-dioxolane as crystals melting at 141° to 142° C. The yield is 20%.

reactant | 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)-1,2-propanediol | 500 mg | ClC1=CC=C(C=C1)C(C(O)C1=C(C=C(C=C1)Cl)Cl)(CN1N=CN=C1)O | C17H14Cl3N3O2
reactant | 2,2-dimethoxypropane | 2 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
catalyst | zinc chloride | about 50 mg | [Cl-].[Zn+2].[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)-2,2-dimethyl-4-(1H-1,2,4-triazol-1-yl)methyl-1,3-dioxolane | 110 mg, yield is 20% | ClC1=CC=C(C=C1)C1(OC(OC1C1=C(C=C(C=C1)Cl)Cl)(C)C)CN1N=CN=C1 | C20H18Cl3N3O2
